US07700655B2
(1) α-Bromo-pivaloylacetonitrile
Pivaloylacetonitrile (1.00 g, 7.99 mmol) was dissolved in carbon tetrachloride (15 mL). N-Bromosuccinimide (1.42 g, 7.99 mmol) was added, and the mixture was refluxed for 15 minutes. After cooling, the insoluble matter was filtered off, and the residue obtained by evaporation of the filtrate under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (1.43 g, 87.9%) as an yellowish brown oil.

reactant | Pivaloylacetonitrile | 7.99 mmol, 1.00 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | N-Bromosuccinimide | 7.99 mmol, 1.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-Bromo-pivaloylacetonitrile | 1.43 g, 87.9% | BrC(C#N)C(C(C)(C)C)=O | C7H10BrNO
